US07595397B2
(S)-(2-Hydroxy-ethyl)-(2-hydroxy-2-phenyl-ethyl)-carbamic acid tert-butyl ester
7.920 g (S)-2-(2-Hydroxy-ethylamino)-1-phenyl-ethanol and 10.5 g di-t-butyl dicarbonate in 262 mL methylene chloride were stirred together at room temperature and 9.14 mL triethylamine was added. The solution was stirred at room temperature overnight. The solution was then poured into water and extracted with methylene chloride. The combined organics were washed with brine and dried with sodium sulfate. After filtration, the crude material was purified by flash chromatography. Wt: 3.1832 g, 26% yield

reactant | (S)-2-(2-Hydroxy-ethylamino)-1-phenyl-ethanol | 7.920 g | OCCNC[C@@H](O)C1=CC=CC=C1 | C10H15NO2
reactant | di-t-butyl dicarbonate | 10.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 9.14 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | 262 mL | C(Cl)Cl | CH2Cl2
product | (S)-(2-Hydroxy-ethyl)-(2-hydroxy-2-phenyl-ethyl)-carbamic acid tert-butyl ester | 26% yield | C(C)(C)(C)OC(N(C[C@H](C1=CC=CC=C1)O)CCO)=O | C15H23NO4
